US07902248B2
N-Chloro-2-phenyl-acetamidine (154 mg, 0.92 mmol) was dissolved in methanol (4.6 mL) and cooled to 0° C. then potassium thiocyanate (89 mg, 0.92 mmol) was added and it was stirred for 1 h. The mixture was diluted with ethyl acetate (50 mL), stirred for 5 min and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 50% ethyl acetate/hexanes) to afford 3-benzyl-[1,2,4]thiadiazol-5-ylamine (93 mg, 53%) as an off-white solid: H1-NMR (400 MHz, CDCl3) δ=4.02 (2H, s), 5.94 (2H, br), 7.28 (5H, m).

reactant | N-Chloro-2-phenyl-acetamidine | 0.92 mmol, 154 mg | ClNC(CC1=CC=CC=C1)=N | C8H9ClN2
reactant | potassium thiocyanate | 0.92 mmol, 89 mg | [S-]C#N.[K+]
solvent | methanol | 4.6 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-benzyl-[1,2,4]thiadiazol-5-ylamine | 93 mg, 53% | C(C1=CC=CC=C1)C1=NSC(=N1)N | C9H9N3S
